US04348399
2-Hydroxy-1-(hydroxymethyl)ethyl 4-(hexadecylamino)hydrocinnamate
A mixture of 2-phenyl-1,3-dioxan-5-yl 4-(hexadecylamino)hydrocinnamate, 10% palladium-on-carbon and acetic acid is treated with hydrogen in a Parr apparatus at room temperature until hydrogen uptake ceases. The mixture is filtered and the filtrate is evaporated. Recrystallization of the residue from chloroform provides the title compound.

reactant | 2-phenyl-1,3-dioxan-5-yl 4-(hexadecylamino)hydrocinnamate | C(CCCCCCCCCCCCCCC)NC1=CC=C(CCC(=O)OC2COC(OC2)C2=CC=CC=C2)C=C1 | C35H53NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Hydroxy-1-(hydroxymethyl)ethyl 4-(hexadecylamino)hydrocinnamate | C(CCCCCCCCCCCCCCC)NC1=CC=C(CCC(=O)OC(CO)CO)C=C1 | C28H49NO4
